US06288054B1
A solution of 2-chloro-5-(chlorocarbonyl)benzothiazole (321 mg, 1.38 mmol, prepared according to U.S. Pat. No. 3,654,296) and ferric acetylacetonate (14.7 mg, 0.042 mmol) in anhydrous tetrahydrofuran (13.8 mL) was cooled in an ice-methanol bath (−20° C.), stirred under a nitrogen atmosphere, and treated dropwise over 5 minutes with 1M methyl magnesium chloride in tetrahydrofuran (1.38 mL). The resulting mixture was stirred at −15° C. for 15 minutes then at room temperature for 30 minutes. The mixture was treated with 2N hydrochloric acid (1.38 mL), diluted with water, and extracted with ethyl acetate. The extracts were washed with 5% aqueous sodium bicarbonate and brine, dried over magnesium sulfate, filtered, and evaporated in vacuo to white solid (299 mg). The crude product was purified by flash chromatography on silica gel (25 g, loaded as a dichloromethane solution and eluted with 2% ethyl acetate in dichlormethane) to afford 5-acetyl-2-chlorobenzothiazole (201 mg) as a white solid.

reactant | 2-chloro-5-(chlorocarbonyl)benzothiazole | ClC=1SC2=C(N1)C=C(C=C2)C(=O)Cl | C8H3Cl2NOS
reactant | methyl magnesium chloride | 1M | C[Mg]Cl
reactant | hydrochloric acid | 2N, 1.38 mL | Cl | ClH
solvent | tetrahydrofuran | 13.8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.38 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5-acetyl-2-chlorobenzothiazole | 201 mg | C(C)(=O)C=1C=CC2=C(N=C(S2)Cl)C1 | C9H6ClNOS
